US06387545B1
Synthesis of 4-Iodoquaterphenyl
To a first mixture containing 5.0 g of quaterphenyl, 8.28 g of iodine, 75 ml of glacial acetic acid, 10 ml of carbon tetrachloride and 2.51 g of urea, a second mixture containing 7.5 ml of concentrated sulfuric acid and 2.00 ml of nitric acid (d=1.4) was added over a period of 0.5 hours while the first mixture was stirred at 115-117° C. Heating continued for another 2.5 hours. The product then was cooled, filtered, washed with sodium bisulphite (NaHSO3), water and methylene chloride. The reaction yield was 35%.

reactant | quaterphenyl | 5.0 g | C1(=CC=CC=C1)C=1C(=CC=CC1)C=1C(=CC=CC1)C1=CC=CC=C1 | C24H18
reactant | iodine | 8.28 g | II | I2
reactant | urea | 2.51 g | NC(=O)N | CH4N2O
reactant | sulfuric acid | 7.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 2.00 ml | [N+](=O)(O)[O-] | HNO3
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 4-Iodoquaterphenyl | yield was 35% | IC1=CC=C(C=C1)C=1C(=CC=CC1)C=1C(=CC=CC1)C1=CC=CC=C1 | C24H17I
